US07015218B1
N-{3-Cyano-4-[bis(2-hydroxyethyl)amino]phenyl}-1-(4-fluorophenyl)-5-methylpyrazole-4-carboxamide
1-(4-Fluorophenyl)-5-methylpyrazole-4-carboxylic acid (2.0 g), 5-amino-2-[bis(2-hydroxyethyl)amino]benzonitrile (2.0 g), 1-hydroxybenzotriazole (1.5 g) and 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide (2.0 g) were added to dimethylformamide (25 ml) and the mixture was stirred at room temperature for 5 h. The reaction mixture was treated with aqueous potassium carbonate solution and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (mobile phase:chloroform:methanol=100:1) to give an oily substance. Diisopropyl ether was added to the oily substance to allow crystallization. The crystals were recrystallized from a mixed solvent of ethyl acetate-diisopropyl ether to give the title compound (0.9 g), melting point: 158–159° C.

reactant | 1-(4-Fluorophenyl)-5-methylpyrazole-4-carboxylic acid | 2.0 g | FC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)O | C11H9FN2O2
reactant | 5-amino-2-[bis(2-hydroxyethyl)amino]benzonitrile | 2.0 g | NC=1C=CC(=C(C#N)C1)N(CCO)CCO | C11H15N3O2
reactant | 1-hydroxybenzotriazole | 1.5 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide | 2.0 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | Diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | N-{3-Cyano-4-[bis(2-hydroxyethyl)amino]phenyl}-1-(4-fluorophenyl)-5-methylpyrazole-4-carboxamide | 0.9 g | C(#N)C=1C=C(C=CC1N(CCO)CCO)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)F | C22H22FN5O3
